Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / Topamax
 
Attending: ___.
 
Chief Complaint:
RLE pain and swelling
 
Major Surgical or Invasive Procedure:
Ultrasound guided steroid injection of the right trochanteric 
bursa (right hip)

 
History of Present Illness:
This is a ___ woman with a history of breast cancer with
BRCA1 gene mutation, COPD, cerebral aneurysm, sleep apnea,
depression, hyperlipidemia, antiphospholipid syndrome with hx
DVT/PE ___ ago on warfarin who presents for evaluation of severe
right lower extremity pain.

She was just admitted to the hospital for lumpectomy
(infiltrating ductal carcinoma of left breast) and sentinel 
lymph
node biopsy on ___, complicated by hematoma status post
evacuation on ___. Prior to these procedures, she had 
severe
right lower extremity pain similar to today and underwent a DVT
ultrasound on ___ which was negative. Her anticoagulation was
held in the hospital due to the hematoma, and she had DVT
prophylaxis with pneumoboots.

During her postoperative hematoma her anticoagulation was held.
She did not have extremity pain during her time in the hospital.
However, upon returning home, she developed severe pain which 
she
describes as cramps in her mid calf on the right. She also has
pain that intermittently occurs in the right thigh which she
describes as spasms. She has not had numbness, tingling, or
weakness on that side. She was seen in breast clinic today where
she complained of this pain, and was referred to the ED for
further evaluation. She initially triggered as a pulseless
extremity because of nonpalpable pulses in the right foot. She
has been taking Tylenol as well as tramadol with minimal pain
relief. 

Of note, she resumed her warfarin without any enoxaparin bridge
this past ___. She has been wearing compression stockings and
elevating her leg in an attempt to relieve the pain. 

In the ED, initial vitals:   
T 98.7  HR 85  BP 175/77  RR 20  O2 Sat 98% RA 

- Exam notable for:  
Right lower extremity with dopplerable pulses, palpable pulses 
in
the left lower extremity. The right lower extremity is warm.
There is tenderness to palpation of the right calf. Tenderness 
to
palpation of the right thigh.

- Labs notable for:  
Chem panel: Unremarkable with Cr 0.8
CK 67
CBC: WBC 5.6, Hgb 10.8 with MCV 93, Plt 264
Coags: ___ 14.8, PTT 28.2, INR 1.4
Lactate 1.1
UA: Mod Leuk, few bacteria

- Imaging notable for:  

RLE Ultrasound ___
Right calf veins not visualized. Otherwise, no evidence of deep
venous
thrombosis in the right lower extremity veins.

CT Lower Extremity Right ___
Unremarkable contrast enhanced CT of the right calf with a two
vessel runoff to the foot.
The veins of the lower extremity are not opacified therefore
cannot be
assessed for patency. Consider repeat ultrasound to more fully
evaluate.
No focal collection or obvious muscular abnormality identified 
by
CT.

- Pt given:  
IV Morphine 4mg
IV APAP 1g
IV NS
IV Dilaudid 5 mg total (1mg x 5)
Warfarin 7.5mg
Atorvastatin 40mg
Omeprazole 20mg

Surgery was consulted: Recommend vascular surgery consult for
possible dvt with history of multiple vein stripping procedures
and DVTs. Also recommend admission to medicine for pain control. 


Vascular surgery was consulted: There is no clear vascular
etiology for her pain.

- Vitals prior to transfer:   
T 98.3  HR 83  BP 140/55  RR 20  O2 Sat 100% RA 

Upon arrival to the floor, the patient reports the pain is ___.
She reports again that this pain is similar to the pain she had
on ___ but even then an ultrasound showed no DVT. She is able 
to
move her toes but has pain with lifting her leg. She has never
had this kind of pain before, even with the vein stripping that
she had in the past (age ___. She has no chest pain or shortness
of breath. She has had no recent travel or trauma to her leg. 

 
Past Medical History:
Dyslipidemia, 
Varicose veins (R>L) s/p ligation, 
COPD, 
OSA (+CPap), 
recent URI (received course of Zithromax), 
bilateral PEs (___), 
antiphospholipid antibody syndrome (on lifelong 
anticoagulation),

T2DM (last A1C 6.2 on ___, 
cerebral aneurysm (followed by Dr. ___, unchanged), 
GERD, 
diverticulosis, 
h/o colon polyps, 
depression, 
s/p right CMC joint arthroplasty, 
b/l rotator cuff repair, 
excision right ___ digit mass, 
CCY w/stone & pancreatic duct exploration (___), 
hysterectomy, 
tonsillectomy 

 
Social History:
___
Family History:
Mother ___ ___ OVARIAN CANCER dx age ___ 
Father ___ ___ BRAIN CANCER 
PGM OVARIAN CANCER 
Aunt OVARIAN CANCER paternal aunt in 
 ___ 
MGM ENDOMETRIAL CANCER 
MGF PROSTATE CANCER 
Brother ___ ___ KIDNEY CANCER 
 RENAL FAILURE 
 CONGESTIVE HEART 
 FAILURE 
 DIABETES MELLITUS 
 TOBACCO ABUSE 
 ALCOHOL ABUSE 
Sister ___ ___ OVARIAN CANCER dx age ___ 
Brother ___ THROAT CANCER dx age ___, died in 
 ___ 
Sister BRCA1 MUTATION, BREAST CANCER 
Daughter Living ___ ABNORMAL PAP SMEAR ___
 SUBSTANCE ABUSE 
Son Died ___ SUBSTANCE ABUSE ___ - heroin overdose on ___.
 
Physical Exam:
ADMISSION EXAM:
==================
VITALS:  T 97.9 BP 125 / 80 HR 82 RR 16  O2 Sat 94 RA 
General: Alert, oriented, no acute distress  
HEENT: MMM, oropharynx clear, EOMI, PERRL, neck supple, JVP not
elevated
Chest: L breast incisions well healed. S/p L axilla surgical
drain removal.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs
Lungs: Clear to auscultation bilaterally, no wheezes or crackles
Abdomen: Soft, non-tender, non-distended, bowel sounds present
Ext: Warm, well perfused, right lower extremity is tender to
palpation and movement limited by pain. Swelling of RLE > LLE.
Palpable 2+ ___ pulses bilaterally.
Skin: Warm, dry, varicose veins noted in lower extremities. 
Neuro: CNII-XII intact, grossly normal strength and sensation 
and
symmetric bilaterally

DISCHARGE EXAM:
================
VITALS: Temp: 98.2 (Tm 98.9), BP: 133/74 (127-147/72-83), HR: 76
(76-91), RR: 18, O2 sat: 99% (90-99), O2 delivery: Ra     
General: Alert, oriented, no acute distress  
HEENT: MMM, oropharynx clear, EOMI, PERRL, neck supple, JVP not
elevated
Chest: L breast incisions well healed. S/p L axilla surgical
drain removal.
CV: RRR, no murmurs
Lungs: Clear
Abdomen: Soft, non-tender, non-distended, bowel sounds present
Ext: Warm, well perfused. No asymmetric swelling. Minimally
tender to palpation along the right trochanteric bursa and
minimally tender to palpation along the right tibia. Normal ROM
though pain elicited with knee flexion; improves with leg raise
and extension. Palpable 2+ ___ pulses bilaterally.
Skin: varicose veins noted in lower extremities. 
Neuro: lower extremity sensation is equal on both sides to light
touch. Normal bilateral lower extremity strength. Negative
babinsky.  Ambulating in hallway independently though it 
precipitates 
right tibial pain
 
Pertinent Results:
ADMISSION LABS:
================
___ 12:00PM BLOOD WBC-5.6 RBC-3.48* Hgb-10.8* Hct-32.3* 
MCV-93 MCH-31.0 MCHC-33.4 RDW-14.7 RDWSD-48.6* Plt ___
___ 12:00PM BLOOD Neuts-73.6* ___ Monos-4.9* 
Eos-0.9* Baso-0.7 Im ___ AbsNeut-4.09 AbsLymp-1.08* 
AbsMono-0.27 AbsEos-0.05 AbsBaso-0.04
___ 12:00PM BLOOD ___ PTT-28.2 ___
___ 12:00PM BLOOD Glucose-107* UreaN-7 Creat-0.8 Na-139 
K-4.0 Cl-100 HCO3-26 AnGap-13
___ 05:40AM BLOOD Calcium-8.6 Phos-4.8* Mg-2.2 Iron-36
___ 05:40AM BLOOD calTIBC-291 VitB12-331 Ferritn-50 TRF-224
___ 07:15AM BLOOD 25VitD-45
___ 12:25PM BLOOD Lactate-1.1

DISCHARGE LABS:
================
___ 04:41AM BLOOD WBC-5.6 RBC-3.36* Hgb-10.1* Hct-31.1* 
MCV-93 MCH-30.1 MCHC-32.5 RDW-14.5 RDWSD-48.7* Plt ___
___ 04:41AM BLOOD ___
___ 04:41AM BLOOD Glucose-132* UreaN-15 Creat-0.7 Na-140 
K-5.0 Cl-103 HCO3-26 AnGap-11
___ 04:41AM BLOOD Calcium-9.2 Phos-4.0 Mg-2.4

IMAGING:
===================
Unilat lower extremity vein- R ___
Right calf veins not visualized. Otherwise, no evidence of deep
venous thrombosis in the right lower extremity veins.

CT RLE ___
Unremarkable contrast enhanced CT of the right calf with a two 
vessel runoff to the foot. 
The veins of the lower extremity are not opacified therefore 
cannot be assessed for patency.  Consider repeat ultrasound to 
more fully evaluate. 
No focal collection or obvious muscular abnormality identified 
by CT

___:
1..  Uneventful ultrasound-guided injection of long-acting 
anesthetic and
steroid into theright greater trochanteric bursa.
2.  Prior injection, small amount of fluid in the right greater 
trochanteric
bursa and dystrophic calcification within the bursal space.  
Findings raise
suspicion for chronic trochanteric bursitis.
 
Brief Hospital Course:
SUMMARY:
==================
Ms. ___ is a ___ with a PMH significant for 
antiphospholipid syndrome with DVTs and PEs on Coumadin, recent 
L-sided breast cancer s/p lumpectomy, who presented to the ED 
with acute on chronic right lower extremity and right hip pain, 
making it difficult to ambulate. Right lower extremity U/S and 
CT did not reveal a DVT though calf veins were not well 
visualized. 

ACTIVE ISSUES:
==================
# Right trochanteric bursitis
# Right anterior lower leg pain
# Right sided varicose veins
Pt endorsed >4mths of pain in RLE that became acutely worse over 
the last few wks.  Her initial exam was most consistent with 
severe trochanteric bursitis on the right. She also has some 
focal pain along the right tibia which she felt was most 
consistent with pain from her varicose veins. The XRs of her 
tibia/fibula and right hip were without obvious pathology. There 
are no concerning neurologic symptoms to suggest a 
radiculopathy, no weakness or numbness though she may have some 
degree of chronic sciatica.  Mildly decreased patellar reflex on 
the right as compared to left may have been in the setting of 
pain and guarding; strength was normal bilaterally as was her 
sensation. 
She underwent U/S guided steroid injection of her trochanteric 
bursa w/ significant improvement in symptoms; ___ stated that 
there was some fluid near the bursa, suggestive of acute on 
chronic trochanteric bursitis. Her anterior shin pain improved 
with initiation of gabapentin and lidocaine patch in addition to 
her home tylenol and an increase in the frequency of her home 
tramadol (q8h PRN to q4h PRN).  Pt was not given her home 
hydromorphone PRN, though she did require one dose of 0.5 mg IV 
hydromorphone following her injection in the setting of an acute 
pain episode. She was discharged with Tramadol 50mg x15 tablets 
given increased requirement. By discharge, she was able ambulate 
and was felt safe for discharge home with a cane per ___ 
evaluation.  Pt was eager to leave and will reach out to her 
vascular surgeon for an appointment early in the new year for 
treatment of her painful varicose veins.

# Iron deficiency anemia:
Anemia is new since ___. Normocytic. Downtrended overnight to 
8.9 from 10.8. No concern for active bleeding. Per iron studies, 
she is iron deficient with a ferritin of 50. She endorses 
fatigue and restless leg syndrome. Etiology is unclear, though 
it may be related to the recent left breast hematoma of her 
breast (unlikely though the timing fits). Prior EGD with 
gastritis (___) for which she is on a BID PPI; prior 
colonoscopy ___ with findings that may be suggestive of 
celiac disease, though ttg at that time was normal with a normal 
IgA. She also had two polyps biopsied and were normal. On this 
admission, a vitamin D level was obtained to assess for evidence 
of malabsorption iso daily supplementation: level was 45. She 
was given ferric gluconate IV x1 on ___. TTG was repeated and 
pending at discharge. 

CHRONIC ISSUES:
===================
# History of DVT/PE on warfarin:
# Antiphospholipid antibody syndrome:
# Subtherapeutic INR:
Lupus anticoagulant positive in ___. She has been taking her 
home dose of warfarin (5 mg ___ and 7.5 mg other days). Her 
warfarin was held last ___ iso hematoma and she was not 
bridged with Lovenox upon reinitiation. INR on this admission 
was subtherapeutic at 1.4. Bridged during this hospitalization 
with Lovenox for goal INR ___. She was given an increased dose 
of warfarin, 7.5 mg daily while in house. INR at discharge was 
1.9, with plan to continue home warfarin regimen. Patient will 
get repeat INR on ___. 

# Vitamin D deficiency: pt takes 2,000 U vitamin D daily. Repeat 
level IS 45 which suggests against malabsorption to account for 
her iron deficiency. 

TRANSITIONAL ISSUES:
====================
Code status: Full, presumed
HCP: ___, granddaughter - ___.

- Right trochanteric bursitis:
[] Consider repeat injection
[] Consider physical therapy

- Right anterior leg pain
[] discharged on gabapentin 600 mg three times daily
[] discharged with tramadol 50mg, home regimen is Q8hrs and 
required Q4hrs during hospitalization. Will give two day supply 
of increased dose. Plan to see PCP next week.
[] Consider outpatient MRI of the lumbar spine for chronic pain 
[] Consider EMG
[] Vascular surgery follow up as outpt for treatment of painful 
veins

- Iron deficiency anemia:
[] Consider repeat IV iron infusion
[] F/u pending TTG
[] Consider further work up (though may be related to left 
breast hematoma)

- History of DVT/PE, antiphospholipid antibody syndrome, 
subtherapeutic INR:
[] F/u ___ clinic on ___. Patient can continue home 
Warfarin regimen
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Docusate Sodium 100 mg PO BID 
3. Omeprazole 20 mg PO BID 
4. Senna 8.6 mg PO HS 
5. Sertraline 150 mg PO DAILY 
6. TraZODone 50 mg PO QHS:PRN sleep 
7. TraMADol 50 mg PO Q8H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
8. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
9. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
10. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
11. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN cough, wheeze 
12. Vitamin D ___ UNIT PO DAILY 
13. Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES QID 
14. Furosemide 20 mg PO DAILY:PRN Leg swelling 
15. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Severe 
16. Warfarin 7.5 mg PO 2X/WEEK (___) 
17. Warfarin 5 mg PO 5X/WEEK (___) 

 
Discharge Medications:
1.  Gabapentin 600 mg PO TID 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times daily 
Disp #*90 Tablet Refills:*0 
2.  Lidocaine 5% Patch 1 PTCH TD QAM right hip 
RX *lidocaine 5 % Apply ___ patches daily Disp #*12 Patch 
Refills:*0 
3.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth Every six hours as 
needed Disp #*15 Tablet Refills:*0 
4.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
5.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN cough, wheeze  
6.  Atorvastatin 40 mg PO QPM  
7.  Docusate Sodium 100 mg PO BID  
8.  Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES QID  
9.  Furosemide 20 mg PO DAILY:PRN Leg swelling  
10.  Omeprazole 20 mg PO BID  
11.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
12.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  
13.  Senna 8.6 mg PO HS  
14.  Sertraline 150 mg PO DAILY  
15.  TraZODone 50 mg PO QHS:PRN sleep  
16.  Vitamin D ___ UNIT PO DAILY  
17.  Warfarin 5 mg PO 2X/WEEK (___)  
18.  Warfarin 7.5 mg PO 5X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
=================
Right trochanteric bursitis
Right anterior leg pain
Right sided varicose veins 

SECONDARY:
=================
Iron deficiency anemia
History of DVT/PE on warfarin
Antiphospholipid antibody syndrome
Subtherapeutic INR
Vitamin D deficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___, 

You were admitted because you were having a lot of leg pain, 
making it difficult to walk. 

In the hospital, we gave you a steroid injection near your right 
thigh for a condition called, Trochanteric Bursitis. We also 
gave you a medication called Gabapentin to help with your leg 
pain lower down. 

We also started you on a medication called Lovenox in order to 
bridge you back to your warfarin - currently, your warfarin dose 
is 7.5 mg daily and your INR was 1.9 at discharge (goal ___. 

Finally, you received 1 dose of intravenous iron because you are 
iron deficient which may be why you are more fatigued than 
usual.

When you go home, please take your medications as prescribed and 
make an appointment with your primary care doctor. We do not 
know what exactly is causing the lower leg pain, so you may want 
to talk to your doctor about having an MRI of your spine. You 
can also ask your doctor about prescribing a medication called 
DICLOFENAC GEL, also called VOLTAREN. This is essentially Motrin 
or Advil in a topical form and may help your pain.

Additionally, please talk to your doctor about why you may be 
iron deficient. 

It was a pleasure taking part in your care. We wish you all the 
best with your health.

Sincerely,
The team at ___

 
Followup Instructions:
___